US03954871
1-(3-Chloro-4-methylthiophenyl)-2-isopropylaminoethanol
7 g of 1-(3-chloro-4-methylthiophenyl)-2-bromoethanol (0.025 mol) in 50 cc of ethanol are treated with 1.4 g of sodium hydroxide (0.035 mol). The product is stirred for 10 minutes, then diluted with water. One extracts with ether and dries on magnesium sulfate. The solvent is evaporated under vacuum and the residual oil is treated with 100 cc of EtOH and 5.9 g of isopropylamine (0.1 mol). The product is brought to 50° overnight with stirring. The solvent and excess of isopropylamine are evaporated under vacuum. The residual oil crystallises after some time (melting point of 111°-112°C after recrystallisation from cyclohexane). The free base is dissolved in ether; by passing dry gaseous HCl, 4.88 g of 1-(3-chloro-4-methylthiophenyl)-2-isopropylaminoethanol hydrochloride are obtained which are recrystallised from a methanol-ether mixture. Melting point: 139°-141°C.

reactant | 1-(3-chloro-4-methylthiophenyl)-2-bromoethanol | 0.025 mol, 7 g | ClC=1C=C(C=CC1SC)C(CBr)O | C9H10BrClOS
reactant | sodium hydroxide | 0.035 mol, 1.4 g | [OH-].[Na+]
reactant | ether | CCOCC | C4H10O
reactant | isopropylamine | 0.1 mol, 5.9 g | C(C)(C)N | C3H9N
solvent | ethanol | 50 cc | C(C)O | C2H6O
solvent | water | O | H2O
solvent | EtOH | 100 cc | CCO | C2H6O
product | 1-(3-Chloro-4-methylthiophenyl)-2-isopropylaminoethanol | ClC=1C=C(C=CC1SC)C(CNC(C)C)O | C12H18ClNOS
